US08629270B2
5-Fluoro-N-methoxy-N-methylthiophene-2-carboxamide
To a stirred solution of 5-fluorothiophene-2-carboxylic acid (33.95 g, 232.3 mmol) in tetrahydrofuran (465 mL) at 0° C. under nitrogen is added N,O-dimethylhydroxylamine hydrochloride (45.32 g, 464.6 mmol), 1-hydroxybenzotriazole monohydrate (53.36 g, 348.5 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (89.1 g, 464.6 mmol), and diisopropylethylamine (162 mL, 929 mmol). The mixture is allowed to warm to room temperature over 18 hours. The mixture is diluted with water (500 mL) and extracted with ethyl acetate (500 mL). The aqueous phase is re-extracted twice with ethyl acetate (300 mL). The combined organic extracts are dried over sodium sulfate, filtered, and concentrated under reduced pressure. The liquid residue is purified by silica gel chromatography eluting with hexanes/ethyl acetate (3:1) to give the title compound (38.28 g, 87%) as a pale yellow liquid. ES/MS (m/e): 190 (M+H).

reactant | 5-fluorothiophene-2-carboxylic acid | 232.3 mmol, 33.95 g | FC1=CC=C(S1)C(=O)O | C5H3FO2S
reactant | N,O-dimethylhydroxylamine hydrochloride | 464.6 mmol, 45.32 g | Cl.CNOC
reactant | 1-hydroxybenzotriazole monohydrate | 348.5 mmol, 53.36 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 464.6 mmol, 89.1 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 929 mmol, 162 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 465 mL | O1CCCC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | 5-Fluoro-N-methoxy-N-methylthiophene-2-carboxamide | 38.28 g, 87% | FC1=CC=C(S1)C(=O)N(C)OC | C7H8FNO2S
